US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 3-chlorobenzoyl chloride (0.25 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. The mixture was stirred at 0° C. for 2 h, then 4% aqueous HCl (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 3-chloro-N-[2-(2,6-dioxo-piperidin-3yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (0.49 g, 88% yield); mp 293-295° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.50 (98.62%); 1H NMR (DMSO-d6) δ 1.96-2.03 (m, 1H), 2.31-2.45 (m, 1H), 2.57-2.63 (m, 1H), 2.85-2.98 (m, 1H), 4.31 (d, 1H, J=17.4 Hz), 4.45 (d, 1H, J=17.4 Hz), 4.60 (d, 2H, J=6.0 Hz), 5.11 (dd, 1H, J=13.2 Hz, J=5.1 Hz), 7.46-7.50 (m, 1H), 7.53-7.55 (m, 2H), 7.61-7.65 (m, 1H), 7.70 (d, 1H, J=7.8 Hz), 7.85-7.89 (m, 1H), 7.95 (t, 1H, J=1.7 Hz), 9.27 (t, 1H, J=6.0 Hz), 10.98 (s, 1H); 13C NMR (DMSO-d6) δ 22.5, 31.2, 42.8, 47.1, 51.6, 122.1, 122.9, 126.0, 127.1, 127.2, 130.4, 130.5, 131.2, 133.2, 136.1, 142.2, 143.6, 164.9, 167.9, 170.9, 172.8; LCMS: MH=412, 414; Anal. Calcd for C21H18ClN3O4+0.1H2O: C, 60.98; H, 4.43; N, 10.16. Found: C, 60.71; H, 4.36; N, 10.30.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3-chlorobenzoyl chloride | 1.4 mmol, 0.25 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-chloro-N-[2-(2,6-dioxo-piperidin-3yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.49 g, 88% yield | ClC=1C=C(C(=O)NCC=2C=C3CN(C(C3=CC2)=O)C2C(NC(CC2)=O)=O)C=CC1 | C21H18ClN3O4
